US05494918
To 1.4 g (0.037 mole) of lithium aluminum hydride in 100 ml dry THF is added, portionwise, 4.9 g (0.026 mole) of 1,4-dioxaspiro[4,5]decane-8-carboxamide over one-half hour. This mixture is then refluxed 2 hours, then allowed to cool to room temperature. About 5 ml water is added cautiously and then stirred 15 minutes. Dichloromethane is then added and the insolubles filtered off. The organic layer is dried over MgSO4 and stripped to dryness, giving 3.48 g crude product. This material is vacuum-distilled to obtain 8-aminomethyl-1,4-dioxaspiro[4,5]decane (b.p. 84°-101° C. at 0.7 mm Hg.)

reactant | lithium aluminum hydride | 0.037 mole, 1.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,4-dioxaspiro[4,5]decane-8-carboxamide | 0.026 mole, 4.9 g | O1CCOC12CCC(CC2)C(=O)N | C9H15NO3
reactant | water | 5 ml | O | H2O
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 8-aminomethyl-1,4-dioxaspiro[4,5]decane | NCC1CCC2(OCCO2)CC1 | C9H17NO2
